US08183245B2
2,6 dichloropyrazine (0.50 g, 3.4 mmol), trans-4-aminocyclohexanol (0.39 g, 3.4 mmol) and cesium carbonate (2.2 g, 6.7 mmol) were added to a round bottom flask and flushed with nitrogen. DMF (4 mL) was then added and the reaction was stirred at 100° C. for 1.5 h. The reaction mixture was cooled to room temperature then diluted with EtOAc (50 mL). The mixture was filtered through celite to remove inorganic salts and the filtrate was concentrated to a crude residue. The residue was purified by silica gel chromatography to afford trans-4-[(6-chloropyrazin-2-yl)amino]cyclohexanol as a yellow oil. LRMS (ESI) calculated for C10H14ClN3O [M+H]+, 228.1; found 228.1.

reactant | 2,6 dichloropyrazine | 3.4 mmol, 0.50 g | ClC1=NC(=CN=C1)Cl | C4H2Cl2N2
reactant | trans-4-aminocyclohexanol | 3.4 mmol, 0.39 g | N[C@@H]1CC[C@H](CC1)O | C6H13NO
reactant | cesium carbonate | 6.7 mmol, 2.2 g | C([O-])([O-])=O.[Cs+].[Cs+]
product | trans-4-[(6-chloropyrazin-2-yl)amino]cyclohexanol | ClC1=CN=CC(=N1)N[C@@H]1CC[C@H](CC1)O | C10H14ClN3O
